US05804586
Cyclobutanecarbonyl chloride (5.5 g) was added to a solution of 2-(4-methoxyphenyl)ethylamine (7 g) and triethylamine (6.5 ml) in ether (300 ml) at ambient temperature. The mixture was stirred overnight, poured onto water and acidified with 2M hydrochloric acid, then the mixture was extracted with ethyl acetate (3×100 ml). The combined extracts were washed with brine, dried and the solvents removed in vacuo to give a residue. This was washed with petroleum ether and dried in vacuo to give N-[2-(4-methoxyphenyl)ethyl]cyclobutanecarboxamide as a solid (9.54 g), mp 118°-120° C.

reactant | Cyclobutanecarbonyl chloride | 5.5 g | C1(CCC1)C(=O)Cl | C5H7ClO
reactant | 2-(4-methoxyphenyl)ethylamine | 7 g | COC1=CC=C(C=C1)CCN | C9H13NO
reactant | triethylamine | 6.5 ml | C(C)N(CC)CC | C6H15N
reactant | hydrochloric acid | 2M | Cl | ClH
solvent | ether | 300 ml | CCOCC | C4H10O
product | N-[2-(4-methoxyphenyl)ethyl]cyclobutanecarboxamide | 9.54 g | COC1=CC=C(C=C1)CCNC(=O)C1CCC1 | C14H19NO2
